US06660744B1
A mixture of (4-bromophenyl)(phenyl)methanone oxime (1.02 g, 0.0037 mol), diboron pinacol ester (1.13 g, 0.0044 mol), [1.1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (II) complex with dichloromethane (1:1) (0.09 g, 0.00011 mol) and potassium acetate (1.09 g, 0.011 mol) in N,N-dimethylformamide (30 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. Dichloromethane (50 mL) was added to the residue and the resulting solid was removed by filtration through a pad of celite. The filtrate was concentrated to leave a yellow oil which was purified by flash chromatography on silica using ethyl acetate/n-heptane (1:7) as mobile phase to yield phenyl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methanone oxime (0.82 g, 0.00254 mol): 1H NMR (DMSO-d6, 400 MHz) 11.40 (s, 1H), 7.76 (d, 1H), 7.66 (d, 1H), 7.41 (m, 5H), 7.26 (d, 2H), 1.32 (s, 12H); TLC (ethyl acetate/heptane 1:5) Rf 0.22.

reactant | (4-bromophenyl)(phenyl)methanone oxime | 0.0037 mol, 1.02 g | BrC1=CC=C(C=C1)C(=NO)C1=CC=CC=C1 | C13H10BrNO
reactant | diboron pinacol ester | 0.0044 mol, 1.13 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.00011 mol, 0.09 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.011 mol, 1.09 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | phenyl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methanone oxime | 0.00254 mol, 0.82 g | C1(=CC=CC=C1)C(=NO)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H22BNO3
